US04981853
Preparation of 4-[3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio-1-oxopropyl]morpholine
Following the procedure of Example 4, 2,6-bis-(1,1-dimethylethyl)4-mercaptophenol (2.38 g, 0.01 mole) and (1-oxo-2-propenyl)morpholine(1.41 g, 0.01 mole) in methanol (75 ml) were combined with triethylamine (1.5 ml) and stirred for 12 hours at room temperature. The solvent was evaporated under a nitrogen stream leaving an orange oil which was chromatographed over silica. The product was recrystallized from a mixture of hexane, ethyl ether and methanol and the resu-ting white solid dried to yield the title compound, m.p. about 136.5°-137.5° C.

reactant | 2,6-bis-(1,1-dimethylethyl)4-mercaptophenol | 0.01 mole, 2.38 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | (1-oxo-2-propenyl)morpholine | 0.01 mole, 1.41 g | O=C(C=C)N1CCOCC1 | C7H11NO2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 75 ml | CO | CH4O
product | 4-[3-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio-1-oxopropyl]morpholine | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)N1CCOCC1 | C21H33NO3S
